US07683056B2
Ethyl (3R)-4-(phenylmethyl)-3-morpholinecarboxylate (D46)
The title Compound was prepared according to the procedure used by G. R. Brown, J. Chem. Soc. Perkin Trans 1, 1985, 2577, using ethyl (3R)-5-oxo-4-(phenylmethyl) -3-morpholinecarboxylate (D45, 3.64 g, 13.84 mmol) in dry THF (70 mL), cooled in an ice bath before adding borane-dimethylsulphide complex (1.84 mL, 10M), slowly. The reaction mixture was allowed to warm up to room temperature overnight. Stirred for further six hours, added more borane-dimethylsulphide complex and stirred at R.T. over the weekend. Reaction quenched carefully with water, dropwise till the effervescence had finished. Solvent evaporated. Residue dissolved in water, basified to pH ˜10 using 2N NaOH solution before extracting with Et2O. Organic layer was then extracted with 2N HCl solution. Acid layer was then basified using 2N NaOH solution before extracting with Et2O ×3. Combined extracts were dried (MgSO4). Filtered. Evaporated under reduced pressure to afford the title compound as a colurless oil in a 68% yield.

reactant | ethyl (3R)-5-oxo-4-(phenylmethyl) -3-morpholinecarboxylate | 13.84 mmol, 3.64 g | O=C1COC[C@@H](N1CC1=CC=CC=C1)C(=O)OCC | C14H17NO4
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | Ethyl (3R)-4-(phenylmethyl)-3-morpholinecarboxylate | C1(=CC=CC=C1)CN1[C@H](COCC1)C(=O)OCC | C14H19NO3
